US07678795B2
(1SR,8RS)-5-(5-Cyclopropyl-1-methyl-1H-pyrazol-4-yl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
yellow foam. MS (ESI): 267.1 (MH+). Prepared from bicyclo[2.2.1]heptane-2,3-dione, [2-(5-Cyclopropyl-1-methyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | bicyclo[2.2.1]heptane-2,3-dione | C12C(C(C(CC1)C2)=O)=O | C7H8O2
reactant | [2-(5-Cyclopropyl-1-methyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C=1C=NN(C1C1CC1)C | C11H17N2O4P
reactant | hydrazine monohydrate | O.NN
product | (1SR,8RS)-5-(5-Cyclopropyl-1-methyl-1H-pyrazol-4-yl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | C1(CC1)C1=C(C=NN1C)C1=NN=C2C3CCC(C2=C1)C3 | C16H18N4
